US06214877B1
step 1 (5′-Nitro-[1,1′;3′,1″]terphenyl-2′-yloxy)acetic acid methyl ester
To a stirred solution of 5′-nitro-[1,1′;3′1″]terphenyl-2′-ol (0.250 g, 0.858=mmol) and K2CO3 (0.130 g, 0.944 mmol) in DMF (9 mL) at room temperature was added dropwise methyl bromoacetate (0.162 mL, 1.72 mmol). After 72 h at this temperature, it was diluted with H2O (20 mL) followed by excess EtOAc (200 mL). The organic layer was washed with 1 N HCl (50 mL), sat. aq. NaHCO3 (50 mL), and brine (50 mL) and then dried (MgSO4). After concentration, the residue was purified by flash chromatography (5 to 30% acetone/hexane gradient) to afford the product (0.309 g, 99%) as a clear oil; 1H NMR (DMSO-d6) δ3.37 (s, 3H), 4.03 (s, 2H), 7.43-7.53 (m, 6H), 7.60-7.64 (m, 4H), 8.14 (s, 2H); IR (film) 3420, 3080, 2950, 1770, 1745, 1590, 1530, 1500, 1455, 1440, 1410, 1350, 1305, 1210, 1110, 1070, 910, 745, and 700 cm−1; mass spectrum [EI], m/z 363 (M)+; Anal. Calcd. for C21H17NO5.0.75H2O: C, 66.93; H, 4.95; N, 3.72, Found: C, 66.89; H, 4.67; N, 3.51.

reactant | 5′-nitro-[1,1′;3′1″]terphenyl-2′-ol | 0.250 g | [N+](=O)([O-])C=1C=C(C(=C(C1)C1=CC=CC=C1)O)C1=CC=CC=C1 | C18H13NO3
reactant | K2CO3 | 0.944 mmol, 0.130 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl bromoacetate | 1.72 mmol, 0.162 mL | BrCC(=O)OC | C3H5BrO2
reactant | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 9 mL | CN(C)C=O | C3H7NO
solvent | H2O | 20 mL | O | H2O
product | (5′-Nitro-[1,1′;3′,1″]terphenyl-2′-yloxy)acetic acid methyl ester | 0.309 g, 99% | COC(COC1=C(C=C(C=C1C1=CC=CC=C1)[N+](=O)[O-])C1=CC=CC=C1)=O | C21H17NO5
